US08110570B2
A mixture of 125 mg (0.64 mmol) of methyl 3-carbamoyl-4-hydroxybenzoate, 192 mg (0.96 mmol) of 1-Boc-4-piperidone, and 120 μL of morpholine in 10 mL of MeOH is refluxed for 72 hr. The MeOH is removed by rotoevapoation, and DCM is added to the residue. Insoluble material is filtered off, and the filtrate is concentrated by rotoevaporation. The residue is purified by preparative TLC to give 93 mg (0.25 mmol, 39% yield) of 1′-(tert-butyloxycarbonyl)-6-methoxycarbonylspiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one which on treatment with 40% TFA in dichloromethane gives the TFA salt of 6-methoxycarbonylspiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one in quantitative yield.

reactant | methyl 3-carbamoyl-4-hydroxybenzoate | 0.64 mmol, 125 mg | C(N)(=O)C=1C=C(C(=O)OC)C=CC1O | C9H9NO4
reactant | 1-Boc-4-piperidone | 0.96 mmol, 192 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | morpholine | 120 μL | N1CCOCC1 | C4H9NO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1′-(tert-butyloxycarbonyl)-6-methoxycarbonylspiro[1,3-benzoxazine-2,4′-piperidine]-4(3H)-one | 0.25 mmol, 93 mg, 39% yield | C(C)(C)(C)OC(=O)N1CCC2(CC1)OC1=C(C(N2)=O)C=C(C=C1)C(=O)OC | C19H24N2O6
